US07220773B2
Preparation for 1-allyl-1H-pyrrole-2-carboxlic acid
A mixture of methyl 1-allyl-1H-pyrrole-2-carboxlate (4.52 g, 27.4 mmol), tetrahydrofuran (30 ml), methanol (30 ml) and an aqueous 1N lithium hydroxide solution was stirred for 3 hours at room temperature, and for 5 hours at 60° C. Thereto was added additional lithium hydroxide (0.5 g) and the mixture was stirred for 5 hours at 60° C. Methanol and tetrahydrofuran were removed under reduced pressure and the residue was acidified with concentrated hydrochloric acid. The mixture was extracted with ethyl acetate and the organic layer was washed with water and an aqueous saturated sodium chloride solution and dried over magnesium sulfate. The solvent was removed to give the subject compound (4.24 g, 100%).

reactant | methyl 1-allyl-1H-pyrrole-2-carboxlate | 27.4 mmol, 4.52 g | C(C=C)N1C(=CC=C1)C(=O)OC | C9H11NO2
reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
reactant | lithium hydroxide | 1N | [OH-].[Li+]
reactant | lithium hydroxide | 0.5 g | [OH-].[Li+]
solvent | methanol | 30 ml | CO | CH4O
product | 1-allyl-1H-pyrrole-2-carboxlic acid | 4.24 g, 100% | C(C=C)N1C(=CC=C1)C(=O)O | C8H9NO2
